US07705004B2
To a solution of 3-methyl-6-nitroindazole (0.4 g, 2.24 mmol) in ethanol (EtOH) (10 mL) and H2O (5 mL) was added Iron (0.63 g, 11.22 mmol) and ammonium formate (1.4 g, 22.4 mmol). After heating at 90° C. for 2 h, the mixture was diluted with EtOAc, excess iron was removed by filtration, and the filtrate was washed sequentially with water, sat. NaHCO3, and brine, before it was dried and concentrated to give 6-amino-3-methylindazole (0.27 g).

reactant | 3-methyl-6-nitroindazole | 2.24 mmol, 0.4 g | CC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O2
reactant | ammonium formate | 22.4 mmol, 1.4 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | H2O | 5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | iron | [Fe] | Fe
catalyst | Iron | 11.22 mmol, 0.63 g | [Fe] | Fe
product | 6-amino-3-methylindazole | 0.27 g | NC1=CC=C2C(=NNC2=C1)C | C8H9N3
